US04147873
To 2-(benzyloxycarbonyl)amino-2-vinylglutaric acid (305 mg, 1 mM) in methylene chloride (15 ml) is added triethylamine (205 mg, 2 mM) followed by ethyl chloroformate (218 mg, 2 mM). The solution is stirred for one hour at 25° C., then alanine methyl ester (206 mg, 2 mM) in methylene chloride (5 ml) is added. This solution is kept overnight at 25° C., washed with water, dried and evaporated to dryness. The residue is treated with 5 ml of a 40% (w/w) solution of hydrogen bromide in dioxane at 25° C. for 30 minutes. Ether (50 ml) is then added and the precipitate collected. This is then treated with 20 ml of a 1 N sodium hydroxide solution overnight at 25° C., the pH adjusted to 6.5, and applied to an Amberlite 120 H+ resin. Elution with 2 N ammonium hydroxide afforded 5-amino-2,10-dimethyl-4,8-dioxo-5-vinyl-3,9-diazaundecanedioic acid.

reactant | 2-(benzyloxycarbonyl)amino-2-vinylglutaric acid | 1 mM, 305 mg | C(C1=CC=CC=C1)OC(=O)NC(C(=O)O)(CCC(=O)O)C=C | C15H17NO6
reactant | triethylamine | 2 mM, 205 mg | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 2 mM, 218 mg | ClC(=O)OCC | C3H5ClO2
reactant | alanine methyl ester | 2 mM, 206 mg | COC([C@@H](N)C)=O | C4H9NO2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 5-amino-2,10-dimethyl-4,8-dioxo-5-vinyl-3,9-diazaundecanedioic acid | NC(C(NC(C(=O)O)C)=O)(CCC(NC(C(=O)O)C)=O)C=C | C13H21N3O6
